US07238716B2
2-[2-[4-[(5-Methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid (0.20 g) was added to a mixture of a 1N aqueous potassium hydroxide solution (0.46 mL), methanol (5 mL) and tetrahydrofuran (5 mL) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the residue was washed with diethyl ether to give crystals (0.19 g, yield 86%) of potassium 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetate. Recrystallization from methanol-diethyl ether gave colorless prism crystals. melting point: 157-159° C.

reactant | 2-[2-[4-[(5-Methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 0.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O5
reactant | potassium hydroxide | 1N, 0.46 mL | [OH-].[K+]
reactant | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | potassium 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetate | 0.19 g, yield 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)[O-])C=C1.[K+] | InChI=1S/C25H22N2O5.K/c1-17-22(27-25(32-17)19-6-3-2-4-7-19)16-30-21-11-9-18(10-12-21)15-31-24-20(14-23(28)29)8-5-13-26-24;/h2-13H,14-16H2,1H3,(H,28,29);/q;+1/p-1
